US07459556B2
Step (c)(i): 3-Pyrimidin-2-yl-8-azabicyclo[3.2.1]octan-3-ol hydrochloride
In an autoclave, 8-benzyl-3-pyrimidin-2-yl-8-azabicyclo[3.2.1]octan-3-ol (5.0 g, 17 mmol), palladium on charcoal (3,5 g, 5% Pd/C, 50% water wet) ethanol (27.5 ml) and 2N HCl (2.5 ml) were mixed and hydrogenated under a pressure of 0.5 to 1.5 bar at 50° C. The reaction was followed by HPLC. After complete reaction (6 to 8 h) the mixture was filtered and the residue washed with ethanol. The filtrate was concentrated to dryness under vacuum at 50° and the crude product is purified by column chromatography (90 g silica gel, methanol:ammonia (25%) 50:1). Yield: 1.8 g (52%) as free base. Assay (HPLC): 99% area.

reactant | 8-benzyl-3-pyrimidin-2-yl-8-azabicyclo[3.2.1]octan-3-ol | 17 mmol, 5.0 g | C(C1=CC=CC=C1)N1C2CC(CC1CC2)(O)C2=NC=CC=N2 | C18H21N3O
reactant | HCl | 2N, 2.5 ml | Cl | ClH
catalyst | palladium on charcoal | 3,5 g | [Pd] | Pd
solvent | ethanol | 27.5 ml | C(C)O | C2H6O
product | 3-Pyrimidin-2-yl-8-azabicyclo[3.2.1]octan-3-ol hydrochloride | Cl.N1=C(N=CC=C1)C1(CC2CCC(C1)N2)O | InChI=1S/C11H15N3O.ClH/c15-11(10-12-4-1-5-13-10)6-8-2-3-9(7-11)14-8;/h1,4-5,8-9,14-15H,2-3,6-7H2;1H
